US07935699B2
A solution of (R)-3-cyclopentyl-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-2-(4-isopropylsulfanyl-phenyl)-N-methyl-propionamide (830 mg, 1.89 mmol) in dioxane (10 mL) was treated with a 9 N aqueous sulfuric acid solution (6.0 mL). The resulting solution was then heated at 110° C. for 16 h. The reaction was then cooled and diluted with water (100 mL) and extracted with a chloroform/methanol solution (3:2, 2×50 mL). The organics were concentrated and then the residue dissolved in acetonitrile and silica gel (4 g) was added and it was concentrated in vacuo and then purified on Biotage Flash chromatography system (40S column, silica gel, 60% ethyl acetate/hexanes) to afford (R)-3-cyclopentyl-2-(4-isopropylsulfanyl-phenyl)-propionic acid (479 mg, 87%) as a yellow viscous oil: [α]28589=−52.3° (c=0.22, methanol); ES-HRMS m/e calcd for C17H24O2S (M+Na)+ 315.1389, observed 315.1388; 1H NMR JT (300 MHz, DMSO-d6) δ 1.07 (m, 2H, CH2), 1.22 (d, J=6.6 Hz, 6H, 2×CH3), 1.37-1.78 (m, 8H, 4×CH2), 1.94 (m, 1H, CH), 3.45 (m, 1H, SCH), 3.49 (d, J=7.5 Hz, 1H, ArCHCO), 7.25 (d, J=8.4 Hz, 2H, Ar), 7.32 (d, J=8.4 Hz, 2H, Ar), 12.35 (br, 1H, CO2H).

reactant | (R)-3-cyclopentyl-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-2-(4-isopropylsulfanyl-phenyl)-N-methyl-propionamide | 1.89 mmol, 830 mg | C1(CCCC1)C[C@@H](C(=O)N(C)[C@@H]([C@@H](C1=CC=CC=C1)O)C)C1=CC=C(C=C1)SC(C)C | C27H37NO2S
reactant | sulfuric acid | 9 N, 6.0 mL | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | (R)-3-cyclopentyl-2-(4-isopropylsulfanyl-phenyl)-propionic acid | 479 mg, 87% | C1(CCCC1)C[C@@H](C(=O)O)C1=CC=C(C=C1)SC(C)C | C17H24O2S
